US06660744B1
a. cis-3-[4-(Ethylamino)-3-fluorophenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
cis-3-(4-Amino-3-fluorophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (75 mg, 0.177 mmol) was suspended in 1,2-dichloroethane (6 mL). A solution of acetaldehyde (12 mg, 0.266 mmol) in 1,2-dichloroethane (0.300 mL) and acetic acid (42 mg, 0.708 mmol) was added and the mixture was stirred for 1 hour. Sodium triacetoxyborohydride (75 mg, 0.354 mmol) was added. After 16 hours, more sodium triacetoxyborohydride (37 mg, 0.175 mmol) was added and the reaction continued for another 3 hours. The reaction mixture was then concentrated under reduced pressure. The residue was dissolved in dichloromethane (75 mL) then washed with saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product (80 mg) was collected as a colorless oil.

reactant | cis-3-(4-Amino-3-fluorophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.177 mmol, 75 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)F | C22H29FN8
reactant | acetaldehyde | 0.266 mmol, 12 mg | C(C)=O | C2H4O
reactant | acetic acid | 0.708 mmol, 42 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.354 mmol, 75 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.175 mmol, 37 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.300 mL | ClCCCl | C2H4Cl2
product | cis-3-[4-(Ethylamino)-3-fluorophenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C(C)NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)F | C24H33FN8
